US08802697B2
Synthesis of 2-chloro-N4-methylpyrimidine-4,5-diamine
To a stirred solution of 2-chloro-N-methyl-5-nitropyrimidin-4-amine (1.9 g, 10 mmol) in acetic acid (30 mL) was added iron powder (4 g, 71 mmol), and the suspension mixture was heated to 60° C. for 16 hours. The solvent was removed under reduced pressure, and the residue was diluted by brine and ethyl acetate. The solid was filtered off, and the filtrate was extracted with ethyl acetate (50 mL*12). The organic layers were separated, combined, dried over sodium sulfate, filtered and concentrated to give the title compound (1.1 g, 69%). MS (ES+) C5H7ClN4 requires: 159, 161. found: 160, 162 [M+H]+.

reactant | 2-chloro-N-methyl-5-nitropyrimidin-4-amine | 10 mmol, 1.9 g | ClC1=NC=C(C(=N1)NC)[N+](=O)[O-] | C5H5ClN4O2
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 71 mmol, 4 g | [Fe] | Fe
product | 2-chloro-N4-methylpyrimidine-4,5-diamine | 1.1 g, 69% | ClC1=NC=C(C(=N1)NC)N | C5H7ClN4
